US08633207B2
A solution of methyl 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-((5-methyl-1H-pyrazol-3-yl)amino)quinazoline-8-carboxylate (26.7 g, 62.3 mmol) in 1:1 3N NaOH/dioxane (200 mL) was stirred at rt for 2 h. The mixture was concentrated under reduced pressure, and the resulting aqueous solution was acidified with 3N HCl. The resulting precipitate was collected by filtration, washed with water, and dried in air to afford 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-((5-methyl-1H-pyrazol-3-yl)amino)quinazoline-8-carboxylic acid as a solid (24.1 g, 93%). LC-MS (ESI) m/z 415.6 (M+H). 1H NMR (500 MHz, DMSO-d6) δ 15.61 (1H, br s), 12.39 (1H, br s), 11.41 (1H, br s), 9.00 (1H, d, J=8.2 Hz), 8.71 (1H, s), 8.59 (1H, d, J=7.36 Hz), 8.09-8.03 (2H, m), 7.83 (1H, t, J=7.86 Hz), 6.07 (1H, s), 2.20 (3H, s).

reactant | methyl 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-((5-methyl-1H-pyrazol-3-yl)amino)quinazoline-8-carboxylate | 62.3 mmol, 26.7 g | FC(C1=NC2=C(C=CC=C2C(=N1)NC1=NNC(=C1)C)C(=O)OC)(C1=NC=C(C=C1)F)F | C20H15F3N6O2
solvent | NaOH dioxane | 3N, 200 mL | [OH-].[Na+].O1CCOCC1
product | 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-((5-methyl-1H-pyrazol-3-yl)amino)quinazoline-8-carboxylic acid | 24.1 g, 93% | FC(C1=NC2=C(C=CC=C2C(=N1)NC1=NNC(=C1)C)C(=O)O)(C1=NC=C(C=C1)F)F | C19H13F3N6O2
